US09359358B2
Step 2. 1-[6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]ethanone
1-[6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]ethanol (0.20 g, 0.57 mmol) was dissolved in methylene chloride (5.00 mL) and cooled to 0° C. To this mixture, Dess-Martin periodinane (0.292 g, 0.689 mmol) was added. The mixture was stirred at 0° C. for 2 hours and then allowed to warm to 25° C. LCMS analysis indicated the reaction was complete. The mixture was extracted with EtOAc and the EtOAc extract was then washed with NaHCO3, sat. NaCl, dried and then the solvent was removed in vacuo to give the product, which was used in the next reaction. MS: 369 (M+Na+). 1H NMR (500 MHz, CDCl3): δ 7.35 (s, 1H); 5.33 (m, 1H, OCH); 3.95 (s, 411, OCH2); 2.63 (s, 3H, CH3); 1.99 (m, 4H); 1.82 (m, 2H); 1.63 (m, 2H). 13C NMR (125 MHz, CDCl3): δ 198 (s, O═C); 171 (s, OC); 161 (s, NC); 157 (q, N2C); 119 (q, CF3); 108 (s, CH and O2C); 74 (s, OCH); 65 (s, OCH2); 32 (s, CH2); 28 (s, CH2); 26 (s, CH3).

reactant | 1-[6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]ethanol | 0.57 mmol, 0.20 g | O1CCOC12CCC(CC2)OC2=CC(=NC(=N2)C(F)(F)F)C(C)O | C15H19F3N2O4
reactant | Dess-Martin periodinane | 0.689 mmol, 0.292 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 5.00 mL | C(Cl)Cl | CH2Cl2
product | 1-[6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]ethanone | O1CCOC12CCC(CC2)OC2=CC(=NC(=N2)C(F)(F)F)C(C)=O | C15H17F3N2O4
